US04487929
1.42 g of tert.butyl 2-bromomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate (diastereomer A) and 0.58 g of potassium thioacetate were stirred at room temperature in 20 ml of acetone for 17 hours. The solvent was removed by evaporation, the residue was diluted with 100 ml of ethyl acetate, the mixture was washed three times with sodium chloride solution, dried over magnesium sulfate and evaporated. After recrystallization of the residue from ethyl acetate/hexane, there were obtained 1.07 g of tert.-butyl 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylate (diastereomer A) having a melting point of 92°-93° C. (from ethyl acetate/hexane).

reactant | tert.butyl 2-bromomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 1.42 g | BrCC1C(N2N(CCCC2C(=O)OC(C)(C)C)C1)=O | C13H21BrN2O3
reactant | potassium thioacetate | 0.58 g | C(C)(=S)[O-].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | tert.-butyl 2-acetylthiomethyl-hexahydro-3-oxo-1H-pyrazolo[1,2-a]-pyridazine-5-carboxylate | 1.07 g | C(C)(=O)SCC1C(N2N(CCCC2C(=O)OC(C)(C)C)C1)=O | C15H24N2O4S
